US07514437B2
To a solution of methyl N-[(1R)-1-(2,4-difluorophenyl)-2-(isopropylamino)-2-oxoethyl]-L-leucinate (1.32 g) in methanol (15 ml) was added a solution of lithium hydroxide (294 mg) in water (15 ml). The reaction was rapidly stirred for 1.5 hours and then evaporated in vacuo. The residue was dissolved in water and neutralised using 2N hydrochloric acid. The resulting solid was collected by filtration and dried in vacuo. The filtrate was applied to 4 Oasis cartridges (6 g), which were eluted with water (x2) and methanol (x2). The required fractions were combined and concentrated in vacuo to afford N-[(1R)-1-(2,4-difluorophenyl)-2-(isopropylamino)-2-oxoethyl]-L-leucine (1.01 g). HPLC Rt=2.51 minutes; m/z [M+H]+=343.

reactant | methyl N-[(1R)-1-(2,4-difluorophenyl)-2-(isopropylamino)-2-oxoethyl]-L-leucinate | 1.32 g | FC1=C(C=CC(=C1)F)[C@H](C(=O)NC(C)C)N[C@@H](CC(C)C)C(=O)OC | C18H26F2N2O3
reactant | lithium hydroxide | 294 mg | [OH-].[Li+]
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 15 ml | O | H2O
product | N-[(1R)-1-(2,4-difluorophenyl)-2-(isopropylamino)-2-oxoethyl]-L-leucine | 1.01 g | FC1=C(C=CC(=C1)F)[C@H](C(=O)NC(C)C)N[C@@H](CC(C)C)C(=O)O | C17H24F2N2O3
